US04096267
Process for preparing (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid
A mixture of (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile (3.0 g.), Example 19, Step A, acetic acid (20 ml.), water (5 ml.) and concentrated sulfuric acid (5 ml.) is refluxed for 2 hours then poured into ice-water (100 ml.) affording 2.5 g. of (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 168°-169° C. after recrystallization from acetic acid.

reactant | (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile | 3.0 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC#N)(C1=CC=CC=C1)C | C18H13Cl2NO2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
product | (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C | C18H14Cl2O4
